US04714761
To the dichloromethane solution of 6,6-dibromopenicillanic acid from Preparation A was added 300 ml of water, followed by the dropwise addition over a period of 30 minutes of 105 ml of 3N sodium hydroxide. The pH stabilized at 7.0. The aqueous layer was removed and the organic layer was extracted with water (2×100 ml). To the combined aqueous solutions was added, at -5° C., a premixed solution prepared from 59.25 g of potassium permanganate, 18 ml of concentrated phosphoric acid and 600 ml of water, until the pink color of the permanganate persisted. The addition took 50 minutes and 550 ml of oxidant were required. At this point 500 ml of ethyl acetate was added and then the pH was lowered to 1.23 by the addition of 105 ml of 6N hydrochloric acid. Then 250 ml of 1M sodium bisulfite was added during 10-15 minutes at ca. 10° C. During the addition of the sodium bisulfite solution the pH was maintained at 1.25-1.35 using 6N hydrochloric acid. The aqueous phase was saturated with sodium chloride and the two phases were separated. The aqueous solution was extracted with additional ethyl acetate (2×150 ml) and the combined ethyl acetate solutions were washed with brine and dried (MgSO4). This afforded an ethyl acetate solution of 6,6-dibromopenicillanic acid 1,1-dioxide.

reactant | 6,6-dibromopenicillanic acid | CC1([C@@H](N2[C@H](S1)C(C2=O)(Br)Br)C(=O)O)C | C8H9Br2NO3S
reactant | sodium hydroxide | 3N, 105 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 105 ml | Cl | ClH
reactant | sodium bisulfite | 1M, 250 ml | S([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6,6-dibromopenicillanic acid 1,1-dioxide | CC1([C@@H](N2[C@H](S1(=O)=O)C(C2=O)(Br)Br)C(=O)O)C | C8H9Br2NO5S
